US04684640
4-Nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-trimethylacetylthio-propenate
To a solution of 0.35 g of 4-nitrobenzyl 2-(4-allylthioazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-trimethylacetylthio-propenate in ethyl acetate at -78° C. was added a solution of 0.128 g of 80% m-chloroperoxybenzoic acid in ethyl acetate over 10 minutes. The reaction mixture was washed with saturated sodium bicarbonate solution, was dried over MgSO4 and evaporated in vacuo to dryness. Chromatography over silica gel and elution with ethyl acetate-hexane mixtures afforded 0.223 g of the title compound as a yellow oil (62% of the theoretical yield).

reactant | 4-nitrobenzyl 2-(4-allylthioazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-trimethylacetylthio-propenate | 0.35 g | C(C=C)SC1CC(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)OC)=O | C28H30N2O7S2
reactant | m-chloroperoxybenzoic acid | 0.128 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-trimethylacetylthio-propenate | 0.223 g | C(C=C)S(=O)C1CC(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)OC)=O | C28H30N2O8S2
